US08754114B2
N-[3-(7-{1-[1-[(1-Cyanocyclopropyl)carbonyl]-3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 77 starting from N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea and 1-cyanocyclopropanecarboxylic acid. LCMS (M+H)+: m/z=589.2.

reactant | N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC1(CNC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H20F3N9O
reactant | 1-cyanocyclopropanecarboxylic acid | C(#N)C1(CC1)C(=O)O | C5H5NO2
product | N-[3-(7-{1-[1-[(1-Cyanocyclopropyl)carbonyl]-3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)C1(CC1)C(=O)N1CC(C1)(CC#N)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C28H23F3N10O2
